US07939544B2
Methyl 5-oxo-1,2,3,3a,4,5-hexahydropentalene-3a-carboxylate (2.5 g, 12.8 mmol) in ethanol (25 mL) was purged with nitrogen for about 10 minutes with stirring. Palladium on carbon (0.043 g, 20 mol %) was added and the reaction vessel was purged with nitrogen for about 10 minutes. The flow of nitrogen was stopped and the flask was flushed with hydrogen. The reaction mixture was stirred overnight under an atmosphere of hydrogen. The flask was flushed with nitrogen for about 20 minutes. The reaction mixture was passed through a pad of Celite® and the filtrate was concentrated in vacuo. The residue was purified by flash column chromatography (eluting with 25% ethyl acetate/heptane) to afford ethyl 2-oxooctahydropentalene-3a-carboxylate (2.04 g, 10.4 mmol, 81%).

reactant | Methyl 5-oxo-1,2,3,3a,4,5-hexahydropentalene-3a-carboxylate | 12.8 mmol, 2.5 g | O=C1CC2(CCCC2=C1)C(=O)OC | C10H12O3
reactant | ethanol | 25 mL | C(C)O | C2H6O
catalyst | Palladium on carbon | 0.043 g | [Pd] | Pd
product | ethyl 2-oxooctahydropentalene-3a-carboxylate | 10.4 mmol, 2.04 g, 81% | O=C1CC2CCCC2(C1)C(=O)OCC | C11H16O3
